US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (242 mg, 1.7 mmol) was dissolved in absolute ethanol (10 mL), then triethylamine (350 μL, 2.5 mmol) and 4-(bromomethyl)-3-chloropyridine (350 mg, 1.7 mmol) in absolute ethanol (5 mL) were added. The mixture was stirred overnight at room temperature. The solid was removed by filtration, and the filtrate was evaporated. The residue was triturated in diethyl ether, filtered, washed with water plus diethyl ether, and then dried in vacuo to afford to 2-{[(3-chloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (158 mg, 35% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 4.46 (s, 2H), 6.03 (bs, 1H), 7.63 (d, J=5.0 Hz, 1H), 8.47 (d, J=5.0 Hz, 1H), 8.63 (s, 1H); LRMS (ES+) m/z 268 (100%, M+1), 270 (65%, M+3).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.7 mmol, 242 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 2.5 mmol, 350 μL | C(C)N(CC)CC | C6H15N
reactant | 4-(bromomethyl)-3-chloropyridine | 1.7 mmol, 350 mg | BrCC1=C(C=NC=C1)Cl | C6H5BrClN
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-{[(3-chloropyridin-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 158 mg, 35% yield | ClC=1C=NC=CC1CSC1=NC(=CC(=N1)O)C | C11H10ClN3OS
